US07560551B2
In a 20 mL sealed tube was dissolved 4-bromo-1h-pyrazole-3-carbonitrile (1.0 g, 5.8 mmol) in THF (10 mL). The mixture was cooled to 0° C., upon which NaH (60% in mineral oil; 0.42 g, 12 mmol) was added, and stirred for 5 minutes. To the mixture was added di-tert-butyl dicarbonate (2.5 g, 12 mmol) and the mixture was stirred at 0° C. for 3 h, then quenched with water, extracted into EtOAc, and the organic layer was washed 1× H2O, 1× saturated NaCl, dried with Na2SO4, filtered through fritted funnel and concentrated. The crude material was purified by normal phase silica gel chromatography using 10-100% EtOAc/Hexanes. The product was concentrated to yield tert-butyl 4-bromo-3-cyano-1-H-pyrazole-1-carboxylate as light yellow solid.

reactant | 4-bromo-1h-pyrazole-3-carbonitrile | 5.8 mmol, 1.0 g | BrC=1C(=NNC1)C#N | C4H2BrN3
reactant | NaH | 12 mmol, 0.42 g | [H-].[Na+]
reactant | di-tert-butyl dicarbonate | 12 mmol, 2.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-bromo-3-cyano-1-H-pyrazole-1-carboxylate | BrC=1C(=NN(C1)C(=O)OC(C)(C)C)C#N | C9H10BrN3O2
